US07476666B2
Step 9: Methyl 3-benzyloxy-5-methyl-4-oxo-7-(piperidin-1-ylcarbonyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
The title compound was prepared from 3-benzyloxy-2-methoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid using a procedure similar to that described in Example 2, Step 5 except that piperidine was used in place of 4-fluorobenzylamine, and the reaction time totaled 18 hours. 1H NMR (400 MHz, d6-DMSO) δ 7.50-7.48 (m, 2H), 7.40-7.31 (m, 3H), 5.88 (d, J=2.4 Hz, 1H), 5.19 (dd, J=11.2, 25.6 Hz, 2H), 4.14 (dd, J=5.2, 13.6 Hz, 1H), 3.78 (s, 3H), 3.68-3.52 (m, 4H), 3.34-3.33 (m, 1H), 2.98 (s, 3H), 1.62 (br s, 4H), 1.47 (br s, 2H); ES MS (M+H)=427.

reactant | 3-benzyloxy-2-methoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)O)C)=O)C(=O)OC | C17H17N3O6
reactant | piperidine | N1CCCCC1 | C5H11N
product | Methyl 3-benzyloxy-5-methyl-4-oxo-7-(piperidin-1-ylcarbonyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)N2CCCCC2)C)=O)C(=O)OC | C22H26N4O5
